US08110687B2
A slurry of methyl 7-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalene-2-carboxylate (6.0 g, 26 mmol) and 10% palladium on carbon (100 mg) in AcOH (120 mL), and concentrated sulfuric acid (780 μL) was allowed to stir under 30 psi of hydrogen for 2.5 h. The reaction mixture was diluted with chloroform, and filtered through Celite. The filtrate was washed with water (5×), dried over Na2SO4 and evaporated. The residue was purified by filtration through a pad of silica, to give methyl 7-methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylate as an oil (4.03 g, 71%). 1H NMR (300 MHz, CD3OD): δ 6.94 (d, 1H), 6.67-6.62 (m, 2H), 3.72 (s, 3H), 3.69 (s, 3H), 2.94-2.91 (m, 2H), 2.78-2.70 (m, 3H), and 2.18-2.09 (m, 1H), and 1.86-1.73 (m, 1H).

reactant | methyl 7-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalene-2-carboxylate | 26 mmol, 6.0 g | COC1=CC=C2CCC(C(C2=C1)=O)C(=O)OC | C13H14O4
reactant | sulfuric acid | 780 μL | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | AcOH | 120 mL | CC(=O)O | C2H4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 7-methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylate | 4.03 g, 71% | COC1=CC=C2CCC(CC2=C1)C(=O)OC | C13H16O3
